US08685969B2
4. 2-((3-(1-Carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-fluorobenzoic acid
A mixture of 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (60.0 mg, 0.154 mmol), 5-fluoro-2-formylbenzoic acid (64.6 mg, 0.384 mmol), sodium triacetoxyborohydride (98 mg, 0.461 mmol), and acetic acid (0.022 mL, 0.384 mmol) in dichloroethane (3 mL) and tetrahydrofuran (2 mL) was stirred at room temperature for 16 hr and then quenched with water (3 mL). The resulting mixture was diluted with ethyl acetate (50 mL) and washed with water (25 mL). The aqueous solution was extracted with ethyl acetate (2×30 mL). The combined extract was washed with brine (25 mL) and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum to dryness. The residue was dissolved with minimum amount of DMF, diluted with MeOH (3 mL), divided into 2 portions, and purified by reverse phase HPLC. The correct fractions were combined, concentrated under vacuum, and lyophilized to afford the desired product (TFA salt) (31.6 mg, 0.048 mmol, 31.3% yield) as a white powder.

reactant | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.154 mmol, 60.0 mg | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C22H22N4O3
reactant | 5-fluoro-2-formylbenzoic acid | 0.384 mmol, 64.6 mg | FC=1C=CC(=C(C(=O)O)C1)C=O | C8H5FO3
reactant | sodium triacetoxyborohydride | 0.461 mmol, 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.384 mmol, 0.022 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-((3-(1-Carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-fluorobenzoic acid | 0.048 mmol, 31.6 mg, 31.3% yield | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)F)C | C30H27FN4O5
